US06017467
22 mmol of 1-[2-fluoro-4-[2-(4-propylphenyl)-ethynyl]phenyl]-2-trimethylsilylacetylene and 10 g of potassium hydroxide were dissolved in 100 ml of ethanol and 10 ml of water, and the solution was stirred at 40° C. for 6 hours. After completion of the agitation, the reaction solution was poured into dilute hydrochloric acid and extracted with toluene. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a brown oily product. This product was isolated and purified by a silica gel column chromatography to afford 5.7 g of 2-fluoro-4-[2-(4-propylphenyl)ethynyl]phenyl acetylene as a colourless solid.

reactant | 1-[2-fluoro-4-[2-(4-propylphenyl)-ethynyl]phenyl]-2-trimethylsilylacetylene | 22 mmol | FC1=C(C=CC(=C1)C#CC1=CC=C(C=C1)CCC)C#C[Si](C)(C)C | C22H23FSi
reactant | potassium hydroxide | 10 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-fluoro-4-[2-(4-propylphenyl)ethynyl]phenyl acetylene | 5.7 g | FC1=C(C=CC(=C1)C#CC1=CC=C(C=C1)CCC)C#C | C19H15F
